US07417040B2
246B. Preparation of 2-Bromo-benzoic acid hydrazide
A solution of methyl 2-bromobenzoate (1.0 g, 4.7 mmol) in EtOH (15 mL) was treated with hydrazine (0.18 mL, 5.6 mmol) and heated to reflux for 15 hours. The resulting solution was concentrated to a white powder (998 mg).

reactant | methyl 2-bromobenzoate | 4.7 mmol, 1.0 g | BrC1=C(C(=O)OC)C=CC=C1 | C8H7BrO2
reactant | hydrazine | 5.6 mmol, 0.18 mL | NN | H4N2
solvent | EtOH | 15 mL | CCO | C2H6O
product | 2-Bromo-benzoic acid hydrazide | BrC1=C(C(=O)NN)C=CC=C1 | C7H7BrN2O
